US05015644
[1-(4-dimethylaminophenyl)cyclopentyl]methylamine
In a pressure reactor was placed 281.2 g (1.3 mole) of 1-cyano-1-(4-dimethylaminophenyl)cyclopentane, 3500 ml of methanol, 600 g of anhydrous ammonia, and 200 g of Raney nickel. Hydrogen was charged into the stirred reaction vessel. The reaction was stirred at room temperature until the theoretical amount of hydrogen had been taken up. The reaction mixture was filtered and the filtrate concentrated in vacuo to yield 284.4 g of the title compound, melting point 87°-89° C.

reactant | 1-cyano-1-(4-dimethylaminophenyl)cyclopentane | 1.3 mole, 281.2 g | C(#N)C1(CCCC1)C1=CC=C(C=C1)N(C)C | C14H18N2
reactant | ammonia | 600 g | N | H3N
reactant | Hydrogen | [H][H] | H2
catalyst | Raney nickel | 200 g | [Ni] | Ni
solvent | methanol | 3500 ml | CO | CH4O
product | [1-(4-dimethylaminophenyl)cyclopentyl]methylamine | 284.4 g | CN(C1=CC=C(C=C1)C1(CCCC1)CN)C | C14H22N2
